US07041824B2
Stage 1: 2-(diethylamino)ethyl 4-[(2-chloro-9H-purin-6-yl)amino]benzoate
The procedure is carried out as in Example 1, starting with 472.5 mg of 2,6-dichloropurine, 5 ml of butanol and 737.3 mg of 2-(N,N-diethylamino)ethyl 4-amino-benzoate. 972.2 mg of the expected product are thus obtained.

reactant | 2,6-dichloropurine | 472.5 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 2-(N,N-diethylamino)ethyl 4-amino-benzoate | 737.3 mg | NC1=CC=C(C(=O)OCCN(CC)CC)C=C1 | C13H20N2O2
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 2-(diethylamino)ethyl 4-[(2-chloro-9H-purin-6-yl)amino]benzoate | 972.2 mg | ClC1=NC(=C2N=CNC2=N1)NC1=CC=C(C(=O)OCCN(CC)CC)C=C1 | C18H21ClN6O2
